US05968967
Ethyl 3-(4-t-Butylphenyl)-3-chloro-2-ethoxycarbonyl-acrylate
To a mixture of 72.5 g of diethyl 4-t-butyl-benzoylmalonate and 337.7 g of phosphorus oxychloride, 48.9 g of diisopropylethylamine was added, and the resulting mixture was stirred at 100° C. for 3 hours. The reaction mixture was evaporated under reduced pressure, and the resulting solid residue was extracted with diethyl ether, and the still remaining solid was mixed with water and then extracted diethyl ether. The extracts were combined, concentrated under reduced pressure, washed with 1N hydrochloric acid, 1N aqueous sodium hydroxide and water successively and dried over anhydrous sodium sulfate. The insoluble were filtered off, and the solvent was removed by evaporation. The resulting residue was purified by silica gel chromatography (eluent; n-hexane/ethyl acetate=7:1) to give 73.19 g of the title compound as a yellow oily substance.

reactant | diethyl 4-t-butyl-benzoylmalonate | 72.5 g | C(C)(C)(C)C1=CC=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C1 | C18H24O5
reactant | phosphorus oxychloride | 337.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diisopropylethylamine | 48.9 g | C(C)(C)N(CC)C(C)C | C8H19N
product | Ethyl 3-(4-t-Butylphenyl)-3-chloro-2-ethoxycarbonyl-acrylate | 73.19 g | C(C)(C)(C)C1=CC=C(C=C1)C(=C(C(=O)OCC)C(=O)OCC)Cl | C18H23ClO4
